US03971828
8.9g (0.10 mol) of β-alanine was dissolved in 100 ml of water. To the solution was added 20 ml of triethylamine and then was added dropwise 22.2g (0.13 mol) of 2-bromopropionylchloride over one hour while stirring and ice-cooling. The mixture was stirred for a further 2 hours. To the mixture was added the filtrate which had been prepared by neutralizing 19.5g (0.14 mol) of thiobenzoic acid with an aqueous KOH and filtering the solution, followed by stirring overnight. Crystals precipitated were recovered by filtration, washed with water and dried to give 20.8g of N-(2-benzoylmercaptopropionyl-β-alanine. After recrystallization from benzene, the product had a melting point of 94° - 97°C.

reactant | β-alanine | 0.10 mol, 8.9g | NCCC(=O)O | C3H7NO2
reactant | 2-bromopropionylchloride | 0.13 mol, 22.2g | BrC(C(=O)Cl)C | C3H4BrClO
reactant | thiobenzoic acid | 0.14 mol, 19.5g | C(C1=CC=CC=C1)(=S)O | C7H6OS
reactant | KOH | [OH-].[K+]
solvent | water | 100 ml | O | H2O
solvent | triethylamine | 20 ml | C(C)N(CC)CC | C6H15N
product | 2-benzoylmercaptopropionyl-β-alanine | C(C1=CC=CC=C1)(=O)SC(C(=O)NCCC(=O)O)C | C13H15NO4S
